US08809552B2
a) rac-4-[3-(2,4-Dichloro-benzylcarbamoyl)-3,6-diaza-bicyclo[3.2.0]hept-6-yl]-benzoic acid ethyl ester
In analogy to the experimental procedure of example 20) rac-3-(2,4-Dichloro-benzylcarbamoyl)-3,6-diaza-bicyclo[3.2.0]heptane using ethyl 4-bromobenzoate instead of 2-bromopyrimidine was converted into the title compound which was obtained as a white solid and directly used without further purification.

reactant | rac-3-(2,4-Dichloro-benzylcarbamoyl)-3,6-diaza-bicyclo[3.2.0]heptane | ClC1=C(CNC(=O)N2CC3CNC3C2)C=CC(=C1)Cl | C13H15Cl2N3O
reactant | ethyl 4-bromobenzoate | BrC1=CC=C(C(=O)OCC)C=C1 | C9H9BrO2
product | rac-4-[3-(2,4-Dichloro-benzylcarbamoyl)-3,6-diaza-bicyclo[3.2.0]hept-6-yl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N1C2CN(CC2C1)C(NCC1=C(C=C(C=C1)Cl)Cl)=O)=O | C22H23Cl2N3O3
